US06313122B1
Preparation of 2- (4-tert-Butylbenzoylamino)-4-(ethylsulfonylamino)-N-(4-methoxyphenyl)benzamide
Using the procedure described in Example 59, Part E, 2-(4-tert-butylbenzoylamino)-4-amino-N-(4-methoxyphenyl)benzamide was reacted with ethanesulfonyl chloride (0.47 mmol) to yield 127 mg (52%) of the title compound as a solid.

reactant | 2-(4-tert-butylbenzoylamino)-4-amino-N-(4-methoxyphenyl)benzamide | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)N)C=C1 | C25H27N3O3
reactant | ethanesulfonyl chloride | 0.47 mmol | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | 2- (4-tert-Butylbenzoylamino)-4-(ethylsulfonylamino)-N-(4-methoxyphenyl)benzamide | 127 mg, 52% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)NS(=O)(=O)CC)C=C1 | C27H31N3O5S
